US06821967B2
e. 9-{4-[4-(8-bromo-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 8-bromo-2-piperazin-1-yl-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 8-bromo-2-piperazin-1-yl-quinoline | BrC=1C=CC=C2C=CC(=NC12)N1CCNCC1 | C13H14BrN3
product | 9-{4-[4-(8-bromo-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=C(C=CC=C2C=C1)Br)(F)F | C33H32BrF3N4O
